US05250504
By the method of Example 5, Step A, 101.3 g (0.4134 mole) of 2,6-dichloro-4-trifluoromethylphenylhydrazine and 76.8 g (0.415 mole) of ethyl 2-acetyl-3-dimethylaminoacrylate were reacted in 1944 mL of ethanol, yielding 139.4 g of 4-ethoxycarbonyl-5-methyl-1-(2,6-dichloro-4-trifluoromethylphenyl)-1H-pyrazole as a viscous oil. A 4 g sample of this oil was removed and allowed to crystallize. The nmr spectrum of this waxy solid was consistent with the proposed structure.

reactant | 2,6-dichloro-4-trifluoromethylphenylhydrazine | 0.4134 mole, 101.3 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)NN | C7H5Cl2F3N2
reactant | ethyl 2-acetyl-3-dimethylaminoacrylate | 0.415 mole, 76.8 g | C(C)(=O)C(C(=O)OCC)=CN(C)C | C9H15NO3
solvent | ethanol | 1944 mL | C(C)O | C2H6O
product | 4-ethoxycarbonyl-5-methyl-1-(2,6-dichloro-4-trifluoromethylphenyl)-1H-pyrazole | 139.4 g | C(C)OC(=O)C=1C=NN(C1C)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C14H11Cl2F3N2O2
